US04597902
N-Methyl-2-(phenylsulfonyl)ethanamine
A solution of 2-chloroethylphenyl sulfone and a large excess of methylamine (40% solution in water) in acetonitrile is stirred at room temperature overnight. The solvent is removed in vacuo and the residue is partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution is extracted with dilute sulfuric acid. The acidic extract is made basic with 50% sodium hydroxide and the basic solution is extracted with methylene chloride. The methylene chloride solution is dried over magnesium sulfate and the solvent is removed in vacuo to give the title compound.

reactant | 2-chloroethylphenyl sulfone | ClCCS(=O)(=O)C1=CC=CC=C1 | C8H9ClO2S
reactant | methylamine | CN | CH5N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-Methyl-2-(phenylsulfonyl)ethanamine | CNCCS(=O)(=O)C1=CC=CC=C1 | C9H13NO2S
